US05545644
2,6-Dibromo-4-methylaminosulfonylmethyl-N-trifluoroacetylaniline
2,6-Dibromo-4-methylaminosulfonylmethylaniline (410 g) was stirred in methylene chloride (8 L) containing pyridine (118 g) and treated with trifluoroacetic anhydride (307.5 g) in methylene chloride (300 mL). Upon complete consumption of the aniline the reaction mixture was diluted with methylene chloride (2 L) and with water (5 L) resulting in precipitation of the title compound (281.9 g) which was removed by filtration. mp 179°-180° C. TLC (EtOAc/hexane 1:1): Rf=0.3. Anal calcd. for C10H9Br2F3N2O3S: C, 26.45; H, 2.00; N, 6.17. Found C 26.46; H, 1.79; N, 6.12.

reactant | 2,6-Dibromo-4-methylaminosulfonylmethylaniline | 410 g | BrC1=C(N)C(=CC(=C1)CS(=O)(=O)NC)Br | C8H10Br2N2O2S
reactant | pyridine | 118 g | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic anhydride | 307.5 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | methylene chloride | 8 L | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 300 mL | C(Cl)Cl | CH2Cl2
product | 2,6-Dibromo-4-methylaminosulfonylmethyl-N-trifluoroacetylaniline | 281.9 g | BrC1=C(NC(C(F)(F)F)=O)C(=CC(=C1)CS(=O)(=O)NC)Br | C10H9Br2F3N2O3S
